US04540698
Synthesis of 5-methylthio-2,4,6-trimethoxypyrimidine (Compound No. 2)
Charged into a 100-milliliter, 4-necked flask equipped with a reflux condenser, thermometer and stirrer were 2.2 g of 6-chloro-2,4-dimethoxy-5-methylthiopyrimidine and 40 ml of methanol. They were stirred into a homogeneous solution. Subsequent to an addition of 2.0 g of potassium hydroxide, the resultant mixture was heated and refluxed, with thorough stirring, for 3 hours. The liquid reaction mixture was then poured into water and the resultant solid precipitate was collected by filtration. It was recrystallized from isopropyl alcohol, thereby obtaining 5-methylthio-2,4,6-trimethoxypyrimidine (m.p. 90°-91° C.). Yield: 1.96 g(90.7%).

reactant | 6-chloro-2,4-dimethoxy-5-methylthiopyrimidine | 2.2 g | ClC1=C(C(=NC(=N1)OC)OC)SC | C7H9ClN2O2S
reactant | methanol | 40 ml | CO | CH4O
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
solvent | water | O | H2O
product | 5-methylthio-2,4,6-trimethoxypyrimidine | CSC=1C(=NC(=NC1OC)OC)OC | C8H12N2O3S
